US04757102
[N,N-Dibenzylaminoxymethyl]diisopropylamine
The procedure of Example I is repeated using 21.33 g of dibenzylhydroxylamine, 9.73 g of aqueous formaldehyde (37%) solution and 10.12 g of diisopropylamine, to afford the title compound.

reactant | dibenzylhydroxylamine | 21.33 g | C(C1=CC=CC=C1)N(O)CC1=CC=CC=C1 | C14H15NO
reactant | formaldehyde | 9.73 g | C=O | CH2O
reactant | diisopropylamine | 10.12 g | C(C)(C)NC(C)C | C6H15N
product | [N,N-Dibenzylaminoxymethyl]diisopropylamine | C(C1=CC=CC=C1)N(OCN(C(C)C)C(C)C)CC1=CC=CC=C1 | C21H30N2O
